US07521445B2
trans-2-[4-(4-Chlorophenyl)-piperazin-1-ylmethyl]cyclopropanecarboxylic acid trans-(4-ethylcyclohexyl)-amide
Follow the procedure of Example 11e, and substitute methane sulfonic acid 2-(trans-4-ethyl-cyclohexylcarbamoyl)-trans-cyclopropylmethyl ester, Example 13d for 2-(trans-4-methyl-cyclohexylcarbamoyl)-trans-cyclopropylmethyl ester and 4-(4-chlorophenyl)-piperazine hydrochloride for 1-(3-chloro-phenyl)-piperazine hydrochloride therein, to obtain the title compound LC/MS, m/z=404 (M+H)+.

reactant | methane sulfonic acid 2-(trans-4-ethyl-cyclohexylcarbamoyl)-trans-cyclopropylmethyl ester | C(C)[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1[C@@H](C1)COS(=O)(=O)C | C14H25NO4S
reactant | 4-(4-chlorophenyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | 1-(3-chloro-phenyl)-piperazine hydrochloride | Cl.ClC=1C=C(C=CC1)N1CCNCC1
product | trans-2-[4-(4-Chlorophenyl)-piperazin-1-ylmethyl]cyclopropanecarboxylic acid trans-(4-ethylcyclohexyl)-amide | C(C)[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1[C@@H](C1)CN1CCN(CC1)C1=CC=C(C=C1)Cl | C23H34ClN3O
